US07723368B2
Step 2) 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-{3-[(propyl-amino)methyl]phenyl}-3,5-dihydro-4H-imidazol-4-one
A small vial (2 ml) was charged with 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde (32.7 mg, 91.0 μmol). To this was added one-fifth of a solution of propylamine (31 mg, 0.524 mmol) in methanol (2.50 ml). After stirring for two hours sodium borohydride (8.7 mg) was added, then after another hour 1N sodium hydroxide (1 ml) was added and the mixture extracted with diethyl ether. The ethereal layer was concentrated by rotary evaporation, diluted with methanol and re-concentrated (repeated three times). Finally the oily residue was redissolved in diethylether/hexanes and concentrated, twice then placed under vacuum to give a white foam 29 mg (78%) 1H NMR (400 MHz, DMSO-d6) δ ppm 0.79 (t, J=7.3 Hz, 3H) 1.29-1.39 (m, 2H) 2.36 (t, J=7.1 Hz, 2H) 2.93 (s, 3H) 3.57 (s, 2H) 6.62 (br. s., 2H) 6.67 (br. s., 1H) 7.06 (d, J=8.8 Hz, 2H) 7.13 (t, J=74.12 Hz, 1H) 7.14-7.25 (m, 3H) 7.35 (s, 1H) 7.43 (d, J=8.8 Hz, 2H); MS (APPI) m/z 403 [M+H]+

reactant | 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde | 91.0 μmol, 32.7 mg | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C=1C=C(C=O)C=CC1)=O)C | C18H15F2N3O3
reactant | propylamine | 0.524 mmol, 31 mg | C(CC)N | C3H9N
reactant | sodium borohydride | 8.7 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | methanol | 2.50 ml | CO | CH4O
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-{3-[(propyl-amino)methyl]phenyl}-3,5-dihydro-4H-imidazol-4-one | 29 mg, 78% | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)CNCCC)C1=CC=C(C=C1)OC(F)F | C21H24F2N4O2
